US04263037
5-Cyano-2,3-dihydro-3,3-dimethyl-2-hydroxybenzofuran (I)
5-Bromo-2,3-dihydro-3,3-dimethyl-2-hydroxybenzofuran (7.3 g), prepared as in Example 5(e) and cuprous cyanide (3.2 g) were heated under reflux in dimethylformamide (10 ml) with stirring for 51/2 hours. The mixture was cooled to room temperature and a solution of ferric chloride (6 g) in water (20 ml) containing hydrochloric acid (3.7 ml conc) was added. After heating at 60°-70° C. for 20 minutes the mixture was extracted with ether. The extracts were washed with water (twice), dried over magnesium sulphate and run down under vacuum to give 4.6 g of product, which on recrystallisation from toluene gave 2.0 g pure title product, mp 124°-127° C.

reactant | 5-Bromo-2,3-dihydro-3,3-dimethyl-2-hydroxybenzofuran | 7.3 g | BrC=1C=CC2=C(C(C(O2)O)(C)C)C1 | C10H11BrO2
reactant | hydrochloric acid | 3.7 ml | Cl | ClH
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | 5-Cyano-2,3-dihydro-3,3-dimethyl-2-hydroxybenzofuran | 4.6 g | C(#N)C=1C=CC2=C(C(C(O2)O)(C)C)C1 | C11H11NO2
